Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Cough x2 days
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 This is a ___ Non ___ speaking female with hx of breast
cancer presents to the ER with 2 days of productive cough. No
other sx per ER report. Patient received 1 L of NS and Zofran 
for
nausea. CXR showed no acute process. Her VS were 92 129/68 16 
98%
RA.

 She is non ___ speaking and on floor -daughter in law helps
as ___. They say pt has been coughing for 2 days, they
were alarmed today since patient had one episode of non bilious
vomiting, vomitus was mostly clear and did not show any blood in
it.

 Patient's husband had similar symptoms of cough a few days ago
and they feel pt may have contracted an infection from him, She
denies SOB, has some productive sputum, but sputum is mostly
clear. She feels she has some sputum stuck in her chest that she
is unable to expectorate. 

 Patient's daughter in law says that for past few days, pt has
been complaining of abdominal distension, pt feels she is doing
well thnough. Pt denies dysphagia, trouble swallowing. Patient
has normal BM everyday and no blood in stools. Family wants to
know the reason behind her sx of bloating and whether or not
chemo could be causing this. Told them it is somewhat unlikely 
sx
to have from chemo and to check with oncologist re: this. 
She has no weight loss, no foul smelling stools, no abdominal
pain or discomfort.

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):

The patient first noticed bloody discharge from her Left nipple
in ___ while she was still in ___. She had a biopsy and 
then
what sounds like a lumpectomy for a "nodule" but reportedly both
were negative for malignancy.
She continued to note intermittent bloody discharge every ___
days. About a year ago, she moved to ___ and started living with
her son. She was evaluated here at ___ and ___ in ___. Per path reports available, it 
appears
that initial bx showed Paget's disease with DCIS. She then
underwent L mastectomy + ALND on ___ that showed 0.2 cm of
residual intermediate grade DCIS w microinvasion, vascular
invasion with 3 out of 14 LN had macrometastatic dz (0.5, 0.6 
and
1.1 cm) w/o extranodal extension. 

PAST MEDICAL HISTORY:

1. Hypothyroidism
2. Hypercholesterolemia
3. Hx of hepatitis B ___ years ago

Past Surgical History:
1. L breast bx and L mastectomy + ALND
2. Total thyroidectomy
 
Social History:
___
Family History:
No known history of malignancy
 
Physical Exam:
ADMISSION EXAM:
General:  NAD
VITAL SIGNS:97.5 PO 112 / 70 88 16 96 RA 
HEENT:  MMM, no OP lesions, Normal pharynx
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB, no crackles or wheezes .
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly. Normal
BS. No tenderness anywhere in abdomen to palpation. Non
distended. 
LIMBS:  No edema, clubbing, tremors, 
SKIN:  No rashes or skin breakdown
NEURO: no focal deficits observed.

DISCHARGE EXAM ESSENTAILLY UNCHANGED
 
Pertinent Results:
DISCHARGE LABS:
___ 07:40AM BLOOD WBC-2.5* RBC-3.71* Hgb-10.5* Hct-31.5* 
MCV-85 MCH-28.3 MCHC-33.3 RDW-14.8 RDWSD-45.3 Plt ___
___ 07:40AM BLOOD Neuts-84* Bands-0 Lymphs-9* Monos-4* 
Eos-2 Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-2.10 
AbsLymp-0.25* AbsMono-0.10* AbsEos-0.05 AbsBaso-0.00*
___ 07:40AM BLOOD Plt Smr-LOW Plt ___
___ 07:40AM BLOOD Glucose-98 UreaN-11 Creat-0.6 Na-138 
K-3.9 Cl-102 HCO3-27 AnGap-13
___ 07:40AM BLOOD Calcium-8.4 Phos-3.1 Mg-2.0

ABDOMEN X-RAY ___:
No radiographic evidence of obstruction. Moderate amount of 
stool in the 
colon. 

CXR ___:
1. No acute cardiopulmonary process. 
2. Upper tracheal deviation suggests an enlarged thyroid gland. 

 
Brief Hospital Course:
___ ___ female with Stage IIA (pTisN1a) L breast DCIS w 
microinvasion (ER/PR+, Her2 neg) w ___ LN positive sp L 
mastectomy on doxorubicin and cyclophosphamide presenting with 
cough and GI symptoms.

# Cough/Likely viral URI-- CXR shows no signs of pneumonia, and 
pt denies SOB, increased sputum production, fevers at home.  Flu 
swab negative.  Per daughter-in-law, multiple members of family 
with similar symptoms.  Pt was not neutropenic on labs.  She was 
treated symptomatically.  No abx started as no clear bacterial 
involvement.

# Abdominal bloating/early satiety-- Pt reports nausea, 
abdominal bloating, and early satiety that started after she 
began chemo.  Most likely side effect of chemo.  Recent 
abdominal US only showed fatty liver with no e/o ascites.  KUB 
obtained showed moderate stool but no e/o obstruction.  Pt 
tolerated regular diet during hospitalization with no recurrence 
of nausea/vomiting.  Encourage pt and family to ask Oncologist 
about possible nutrition consult given poor PO intake.
     
# Hypothyroidism-- Cont Levothyroxine at home dose 175ug/day

# Hx of HBV infection-- Continued Tenofovir.

# HP/ Her2 Negative Breast cancer-- On chemo with Doxorubicin 
and Cyclophosphamide/ Received Neupogen on ___.  Pt noted 
to be mildly pancytopenic but not significantly neutropenic.

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 175 mcg PO DAILY 
2. Prochlorperazine 10 mg PO Q6H:PRN nausea 
3. Simvastatin 20 mg PO QPM 
4. Tenofovir Disoproxil (Viread) 300 mg PO DAILY 

 
Discharge Medications:
1.  Levothyroxine Sodium 175 mcg PO DAILY  
2.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
3.  Simvastatin 20 mg PO QPM  
4.  Tenofovir Disoproxil (Viread) 300 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral URI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with a cough and abdominal bloating.  We did a chest 
x-ray and and abdominal x-ray.  The chest x-ray did not show any 
pneumonia.  We also tested you for flu and this was negative.  
We think that the cough is due to a viral infection that is not 
the flu and that it will improve with rest and time.  

We think that you abdominal bloating and feelings of being full 
too quickly are a side effect of you chemo.  There was nothing 
obviously abnormal on your abdominal x-ray.  Please talk to your 
oncologist about whether or not a nutrition consult would be 
helpful.

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___